US03994902
Following a procedure similar to that described in Example 7, Procedure 2, but substituting for 1-(4-methoxyphenyl)-2-phenyl-4(1H)-quinolone an equivalent amount of 1-(4-benzyloxyphenyl)-2-phenyl-6-methoxy-4(1H)-quinolone there can be obtained 1-(4-hydroxyphenyl)-2-phenyl-6-methoxy-1,2,3,4-tetrahydroquinoline.

reactant | 1-(4-methoxyphenyl)-2-phenyl-4(1H)-quinolone | COC1=CC=C(C=C1)N1C(=CC(C2=CC=CC=C12)=O)C1=CC=CC=C1 | C22H17NO2
reactant | 1-(4-benzyloxyphenyl)-2-phenyl-6-methoxy-4(1H)-quinolone | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(=CC(C2=CC(=CC=C12)OC)=O)C1=CC=CC=C1 | C29H23NO3
product | 1-(4-hydroxyphenyl)-2-phenyl-6-methoxy-1,2,3,4-tetrahydroquinoline | OC1=CC=C(C=C1)N1C(CCC2=CC(=CC=C12)OC)C1=CC=CC=C1 | C22H21NO2
